US07034029B2
A mixture of 4-(homopiperazin-1-yl)benzimidazole (4.3 g, 20 mmol), di-t-butyl dicarbonate (4.8 g, 22 mmol) and NaOH (0.8 g, 20 mmol) in 40% aqueous dioxane is stirred at room temperature for 10 hrs and diluted with water. The aqueous mixture is extracted with ethyl acetate. The extracts are combined, dried over NaSO4 and concentrated in vacuo to give t-butyl 4-(benzimidazol-4-yl)homopiperazine-1-carboxylate.

reactant | 4-(homopiperazin-1-yl)benzimidazole | 20 mmol, 4.3 g | N1(CCNCCC1)C1=CC=CC=2N=CNC21 | C12H16N4
reactant | di-t-butyl dicarbonate | 22 mmol, 4.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 20 mmol, 0.8 g | [OH-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | t-butyl 4-(benzimidazol-4-yl)homopiperazine-1-carboxylate | N1=CNC2=C1C=CC=C2N2CCN(CCC2)C(=O)OC(C)(C)C | C17H24N4O2
